US09290496B2
Preparation 6: Preparation of N-((3R,4R)-4-fluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide
A nitrogen sparged suspension of (3R,4R)-benzyl 3-fluoro-4-(3-(methylsulfonyl)propanamido)pyrrolidine-1-carboxylate (2.80 g, 7.52 mmol, 1.00 eq) and 10% Pd/C (300 mg) in ethanol (250 mL) was stirred under a hydrogen atmosphere (1 atm) for 16 hr. The reaction mixture was then sparged with nitrogen and filtered through a pad of Celite®. The Celite® was washed with additional ethanol (50 mL). The combined filtrates were concentrated under reduced pressure to give the title compound (1.75 g, 98% yield, 95% purity) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.13 (d, J=6.7 Hz, 1 H) 4.73-5.02 (m, 1 H) 3.99-4.20 (m, 1 H) 3.32 (t, J=7.6 Hz, 2 H) 3.14 (dd, J=11.7, 6.8 Hz, 2 H) 2.94-3.01 (m, 4 H) 2.87-2.91 (m, 1 H) 2.52-2.59 (m, 3 H). m/z (APCI+) for C8H16FN2O3S 239.2 (M+H)+.

reactant | (3R,4R)-benzyl 3-fluoro-4-(3-(methylsulfonyl)propanamido)pyrrolidine-1-carboxylate | 7.52 mmol, 2.80 g, 1.00 eq | F[C@@H]1CN(C[C@H]1NC(CCS(=O)(=O)C)=O)C(=O)OCC1=CC=CC=C1 | C16H21FN2O5S
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | N-((3R,4R)-4-fluoropyrrolidin-3-yl)-3-(methylsulfonyl)propanamide | 1.75 g, 98% yield | F[C@H]1[C@@H](CNC1)NC(CCS(=O)(=O)C)=O | C8H15FN2O3S
